US05872136
Step B: 2-(2-Trifluoromethylphenyl)-5-carboxypyridine
A suspension of 2-(2-Trifluoromethylphenyl)-5-methylpyridine (0.40 g, 1.68 mmol) and potassium permanganate (1.60 g, 10.1 mmol), in water (10 mL) was heated at reflux for 16 hours. The reaction was filtered hot through celite to remove the solids. Acetic acid was added to the colourless filtrate to yield a pH of 5 and the resulting suspension was extracted with CH2Cl2, washed with water (10 mL), dried, (MgSO4), and the solvent evaporated in vacuo to afford the title compound.

reactant | 2-(2-Trifluoromethylphenyl)-5-methylpyridine | 1.68 mmol, 0.40 g | FC(C1=C(C=CC=C1)C1=NC=C(C=C1)C)(F)F | C13H10F3N
reactant | potassium permanganate | 10.1 mmol, 1.60 g | [Mn](=O)(=O)(=O)[O-].[K+]
reactant | water | 10 mL | O | H2O
product | 2-(2-Trifluoromethylphenyl)-5-carboxypyridine | FC(C1=C(C=CC=C1)C1=NC=C(C=C1)C(=O)O)(F)F | C13H8F3NO2
